US06576656B1
(1) 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(phenyl)oxindole
The title compound (53%) was prepared from 1-(2-diethylaminoethyl)-6-iodo-4-trifluoromethylisatin and phenylmagnesium bromide by the procedure similar to that described in Example 1. The compound obtained was further purified by reverse phase HPLC with water-acetonitrile-trifluoroacetic acid.

reactant | 1-(2-diethylaminoethyl)-6-iodo-4-trifluoromethylisatin | C(C)N(CCN1C(=O)C(=O)C2=C(C=C(C=C12)I)C(F)(F)F)CC | C15H16F3IN2O2
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
product | 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(phenyl)oxindole | 53% | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)C(F)(F)F)(C1=CC=CC=C1)O)=O)CC | C21H22F3IN2O2
